US05750531
Synthesis of 6-ethyl-2-(2-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methylaniline(0.55 ml, 5.15 mmol) was added to a mixture solution of 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine(0.7 g, 2.56 mmol) and dimethylformamide(5 ml), 0.23 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methylaniline | 5.15 mmol, 0.55 ml | CC1=C(N)C=CC=C1 | C7H9N
reactant | 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine | 2.56 mmol, 0.7 g | C(C)C1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C15H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-2-(2-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.23 g, Yield: 24% | Cl.C(C)C1=CC(=NC(=N1)NC1=C(C=CC=C1)C)N1CC2=CC=CC=C2CC1 | InChI=1S/C22H24N4.ClH/c1-3-19-14-21(26-13-12-17-9-5-6-10-18(17)15-26)25-22(23-19)24-20-11-7-4-8-16(20)2;/h4-11,14H,3,12-13,15H2,1-2H3,(H,23,24,25);1H
